US06432993B1
(10-2a) 5-{4-(1-Methyl-6-[2-(morpholin-4-yl)phenoxy]-1H-benzimidazol-2-ylmethoxy)benzyl}thiazolidine-2,4-dione
Using 1.45 g of t-butyl N-{2-[4-(2,4-dioxothiazolidin-5-ylmethyl)phenoxyacetylamino]-5-[2-(morpholin-4-yl)phenoxy]phenyl}-N-methylcarbamate and 20 ml of 4N hydrochloric acid/dioxane, reaction and purification were carried out in a similar manner to Example 2a, whereby 0.94 g of the title compound were obtained.

reactant | t-butyl N-{2-[4-(2,4-dioxothiazolidin-5-ylmethyl)phenoxyacetylamino]-5-[2-(morpholin-4-yl)phenoxy]phenyl}-N-methylcarbamate | 1.45 g | O=C1SC(C(N1)=O)CC1=CC=C(OCC(=O)NC2=C(C=C(C=C2)OC2=C(C=CC=C2)N2CCOCC2)N(C(OC(C)(C)C)=O)C)C=C1 | C34H38N4O8S
solvent | hydrochloric acid dioxane | 4N, 20 ml | Cl.O1CCOCC1
product | 5-{4-(1-Methyl-6-[2-(morpholin-4-yl)phenoxy]-1H-benzimidazol-2-ylmethoxy)benzyl}thiazolidine-2,4-dione | 0.94 g | CN1C(=NC2=C1C=C(C=C2)OC2=C(C=CC=C2)N2CCOCC2)COC2=CC=C(CC1C(NC(S1)=O)=O)C=C2 | C29H28N4O5S
